US04340734
3-Diphenylmethyl-2,3,6,7,8,9-hexahydro-5H-thiazolo[3,2-a][1,3]diazocin-3-ol hydrobromide
1-Bromo-3,3-diphenyl-2-propanone is reacted with hexahydro-1,3-diazocin-2(1H)-thione by the procedure of Example 22, giving the desired product, m.p. 211°-213° C. (dec.).

reactant | 1-Bromo-3,3-diphenyl-2-propanone | BrCC(C(C1=CC=CC=C1)C1=CC=CC=C1)=O | C15H13BrO
reactant | hexahydro-1,3-diazocin-2(1H)-thione | N1C(NCCCCC1)=S | C6H12N2S
product | 3-Diphenylmethyl-2,3,6,7,8,9-hexahydro-5H-thiazolo[3,2-a][1,3]diazocin-3-ol hydrobromide | Br.C1(=CC=CC=C1)C(C1(CSC=2N1CCCCCN2)O)C2=CC=CC=C2 | InChI=1S/C21H24N2OS.BrH/c24-21(16-25-20-22-14-8-3-9-15-23(20)21)19(17-10-4-1-5-11-17)18-12-6-2-7-13-18;/h1-2,4-7,10-13,19,24H,3,8-9,14-16H2;1H
